US05594021
C. N-(4-bromo-3-methyl-5-isoxazolyl)-5-(4-methylphenyl)thiophene-2-sulfonamide
N-(4-bromo-3-methyl-5-isoxazolyl)-5-(4-methylphenyl)thiophene-2-sulfonamide was prepared in the same manner as described in Example 2. Reaction of 2-chlorosulfonyl-5-(4-methylphenyl)thiophene (100 mg, 0.37 mmol) with 5-amino-4-bromo-3-methylisoxazole (65 mg, 0.37 mmol) yielded, after column chromatography using 10% MeOH/CHCl3, 96 mg final product as a pale yellow solid, (63% yield, m.p. 175° C.).

reactant | 2-chlorosulfonyl-5-(4-methylphenyl)thiophene | 0.37 mmol, 100 mg | ClS(=O)(=O)C=1SC(=CC1)C1=CC=C(C=C1)C | C11H9ClO2S2
reactant | 5-amino-4-bromo-3-methylisoxazole | 0.37 mmol, 65 mg | NC1=C(C(=NO1)C)Br | C4H5BrN2O
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | N-(4-bromo-3-methyl-5-isoxazolyl)-5-(4-methylphenyl)thiophene-2-sulfonamide | 96 mg, 63% yield | BrC=1C(=NOC1NS(=O)(=O)C=1SC(=CC1)C1=CC=C(C=C1)C)C | C15H13BrN2O3S2
